US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-fluoropyrimidine with 4-acetamidoaniline gave N2,N4-bis-(4-acetamidophenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 14.82 min.; purity: 95%; MS (m/e): 395 (MH+); 1H NMR (DMSO-d6): δ 10.33 (1H, s), 10.14 (1H, s), 10.07 (2H, s), 8.39 (1H, d, J=5.1 Hz), 7.64 (8H, m), 2.15 (3H, s), 2.13 (3H, s).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-acetamidoaniline | C(C)(=O)NC1=CC=C(N)C=C1 | C8H10N2O
product | N2,N4-bis-(4-acetamidophenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)(=O)NC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)NC(C)=O)F | C20H19FN6O2
